US07687495B2
a) (2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-2-(3-phenoxy-propyl)-piperidine-1-carboxylic acid benzyl ester
To a stirred solution of 120 mg of (2R,4R,5R)-2-(3-hydroxy-propyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester in 8 ml of tetrahydrofuran are added 36.5 mg of triphenylphosphine and 0.052 ml of diisopropylazodicarboxylate at room temperature. The reaction mixture is stirred for 1 hour and concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a colourless oil. Rf=0.30 (EtOAc-heptane 1:2); Rt=6.06.

reactant | (2R,4R,5R)-2-(3-hydroxy-propyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | 120 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)CCCO | C36H46N2O7
reactant | triphenylphosphine | 36.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.052 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-2-(3-phenoxy-propyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)CCCOC1=CC=CC=C1 | C42H50N2O7
